US05817671
5-(N-[2-chloro-3-pyridinecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.010 gm (0.044 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.054 mMol 2-chloro-3-pyridinecarbonyl chloride, the title compound was prepared essentially by the procedure described in Example 7.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.044 mMol, 0.010 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 2-chloro-3-pyridinecarbonyl chloride | 0.054 mMol | ClC1=NC=CC=C1C(=O)Cl | C6H3Cl2NO
product | 5-(N-[2-chloro-3-pyridinecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | ClC1=NC=CC=C1C(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C19H20ClN5O
